US06407235B1
To a solution of 200 mg (0.38 mmol) 4-chloromethyl-benzoic acid-(3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester in 10 ml CH2Cl2 were added 53 □l (0.38 mmol) Et3N and 33 μl (0.38 mmol) morpholine. After 16 hours the reaction mixture was purified by chromatography over silica gel to give 70 mg (0.12 mmol, 32%) 4-morpholin-4-ylmethyl-benzoic acid (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester as a colorless solid.

reactant | 4-chloromethyl-benzoic acid-(3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester | 0.38 mmol, 200 mg | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)CCl)=O)O | C28H30ClNO5S
reactant | Et3N | 0.38 mmol | CCN(CC)CC | C6H15N
reactant | morpholine | 0.38 mmol, 33 μl | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-morpholin-4-ylmethyl-benzoic acid (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester | 0.12 mmol, 70 mg, 32% | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)CN1CCOCC1)=O)O | C32H38N2O6S
